US06235787B1
In a manner analogous to that described in Example 2, parts (iii)-(v), starting from 4-tert-butyl hydrogen 3(S)-[(tetrahydro-2H-pyran-4-ylidene)ethyl]-2(R)-isobutylsuccinate and isobutylhydrazine and using trimethylsilyl trifluoromethanesulphonate in 1,4-dioxane instead of trifluoroacetic acid to deprotect the tertiary butyl ester there was obtained 2(R)-[3-(tetrahydro-2H-pyran-4-ylidene)-1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-propyl]-2′-isobutyl-2′-methanesulphonyl)-4-methylvalerohydrazide in the form of an off-white solid.

reactant | 4-tert-butyl hydrogen 3(S)-[(tetrahydro-2H-pyran-4-ylidene)ethyl]-2(R)-isobutylsuccinate | O1CCC(CC1)=CC[C@@H]([C@H](C(=O)O)CC(C)C)C(=O)OC(C)(C)C | C19H32O5
reactant | isobutylhydrazine | C(C(C)C)NN | C4H12N2
reactant | trimethylsilyl trifluoromethanesulphonate | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-methylvalerohydrazide | CC(CCC(=O)NN)C | C6H14N2O
